US08216999B2
Step 5: 3-Methyl-N-{[methyl(pent-4-enyl)amino]carbonyl}-L-valine
A solution of methyl 3-methyl-N-{[methyl(pent-4-enyl)amino]carbonyl}-L-valinate (3.00 g, 11.2 mmol), lithium hydroxide (1M, 56.0 mL, 56.0 mmol) in tetrahydrofuran (40 mL) was heated to 50° C. for 1 h. Contents of the reaction flask were cooled and evaporated to remove tetrahydrofuran. The remaining mixture was poured into 5% potassium bisulfate and extracted with methylene chloride (3×10 mL). The combined organic extracts were dried with anhydrous sodium sulfate, filtered and evaporated to give the title compound as a colorless oil, 2.87 g (100% yield). LRMS (ESI) m/z 257 [(M+H)+; calcd for C13H25N2O3: 257].

reactant | methyl 3-methyl-N-{[methyl(pent-4-enyl)amino]carbonyl}-L-valinate | 11.2 mmol, 3.00 g | CC([C@H](NC(=O)N(CCCC=C)C)C(=O)OC)(C)C | C14H26N2O3
reactant | lithium hydroxide | 56.0 mmol, 1M, 56.0 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 3-Methyl-N-{[methyl(pent-4-enyl)amino]carbonyl}-L-valine | 100% yield | CC([C@H](NC(=O)N(CCCC=C)C)C(=O)O)(C)C | C13H24N2O3
